US05453421
(3S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-methyl-3-phenyl-4-isoxazolecarboxamide
The title compound was prepared from (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (the title B compound of Example 1) and 5-methyl-3-phenylisoxazole-4-carboxlic acid by the same method as described for the title compound of Example 2 to afford a white solid, m.p. 235°-236° C. [α]D =-29.6° (c=0.46, MeOH).

reactant | (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | 5-methyl-3-phenylisoxazole-4-carboxlic acid | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
solvent | MeOH | CO | CH4O
product | (3S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-methyl-3-phenyl-4-isoxazolecarboxamide | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC(=O)C=2C(=NOC2C)C2=CC=CC=C2)C1 | C23H21N3O4
